US08058299B2
Methyl-cyclohexane-1,4-dicarboxylic acid (34.1 mg, 0.183 mmol) in dry CH2Cl2 (3 mL) was treated with phosgene (2M in CH2Cl2, 366 uL, 0.732 mmol) for 30 minutes. THF (0.5 mL) was added and stirred for an additional 30 minutes. The reaction was evaporated and re-evaporated from toluene three times and re-dissolved in 5 mL CH2Cl2. 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide (76.2 mg, 0.183 mmol) and triethylamine (77 uL, 0.549 mmol) in 3 mL of CH2Cl2 were added dropwise over 15 minutes to the above solution. The mixture was stirred at room temperature for 90 minutes and then diluted with 10 mL CH2Cl2. Following work-up, the crude residue was purified by flash chromatography to yield 1-methyl-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-cyclohexanecarboxylic acid as a white solid (26 mg, 24%). ES-MS calcd for C31H32F3N3O5 (m/e) 583.61, obsd 584 (M+H).

reactant | Methyl-cyclohexane-1,4-dicarboxylic acid | 0.183 mmol, 34.1 mg | CC1(CCC(CC1)C(=O)O)C(=O)O | C9H14O4
reactant | phosgene | 0.732 mmol, 2M, 366 uL | C(=O)(Cl)Cl | CCl2O
reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperidin-4-yl-phenyl)-amide | 0.183 mmol, 76.2 mg | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N3O2
reactant | triethylamine | 0.549 mmol, 77 uL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-methyl-4-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-cyclohexanecarboxylic acid | 26 mg, 24% | CC1(CCC(CC1)C(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)C(=O)O | C31H32F3N3O5
